US06211244B1
A solution of NPS R-568 (30.3 g 100 mmol) in dichloromethane at −78° C. was treated dropwise with borontribromide (50 g, 200 mmol). The reaction 40 was stirred 1 hr at rt and poured over ice. The hydrobromide was extracted from the aqueous phase with chloroform. The chloroform solubles were then washed (4×100 ml) with 50% HCl. The chloroform wash was dried over anhydrous magnesium sulfate and concentrated to afford (R)-N-[3-(2-chlorophenyl)propyl]-1-(3-hydroxyphenyl)ethylamine hydrochloride as a solid. A solution of sodium hydride (0.48 g, 20 mmol) in dimethylformamide was treated with (R)-N-[3-(2-chlorophenyl)propyl]-1-(3-hydroxyphenyl)ethylamine hydrochloride (3.25 g, 10 mmol) and the reaction stirred 1 hr at rt. The reaction was treated with iodoethane (1.71 g, 11 mmol) and stirred 16 hr at rt. Work-up and chromatography through silica using 3% methanol in chloroform afforded (R)-N-[3-(2-chlorophenyl)propyl]-1-(3-ethoxyphenyl)ethylamine, 6T, as an oil; m/z (rel. int.) 316 (M+, 1), 302 (100), 282 (11), 196 (5), 178 (7), 149 (74), 121 (34), 103 (25), 91 (28), 77 (29).

reactant | NPS R-568 | 100 mmol, 30.3 g | C[C@H](C1=CC(=CC=C1)OC)NCCCC2=CC=CC=C2Cl | C18H22ClNO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-N-[3-(2-chlorophenyl)propyl]-1-(3-hydroxyphenyl)ethylamine hydrochloride | Cl.ClC1=C(C=CC=C1)CCCN[C@H](C)C1=CC(=CC=C1)O | InChI=1S/C17H20ClNO.ClH/c1-13(15-7-4-9-16(20)12-15)19-11-5-8-14-6-2-3-10-17(14)18;/h2-4,6-7,9-10,12-13,19-20H,5,8,11H2,1H3;1H/t13-;/m1./s1
